US07618960B2
Synthesis of 2-hydroxy-4-(3,4,5-trifluorobenzyl)morpholin-3-one
A 1 M solution of lithium tri-sec-butylborohydride in THF (31.4 mL) was added dropwise to a solution of 4-(3,4,5-trifluorobenzyl)morpholine-2,3-dione (7.38 g) in THF at −15° C., and the reaction solution was stirred for two hours. A 5 N sodium hydroxide solution (2.85 mL) and 30% aqueous hydrogen peroxide (968 μL) were added dropwise to the reaction solution at 20° C. or less, which was then stirred at 10° C. for one hour. Sodium bisulfite (888 mg) was added to the reaction solution, which was then stirred for 30 minutes. Brine and chloroform were added to the reaction solution, and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography using a silica gel (heptane:ethyl acetate=1:1 to 0:100) to obtain 3.94 g of the title compound.

reactant | lithium tri-sec-butylborohydride | C(C)(CC)[BH-](C(C)CC)C(C)CC.[Li+]
reactant | 4-(3,4,5-trifluorobenzyl)morpholine-2,3-dione | 7.38 g | FC=1C=C(CN2C(C(OCC2)=O)=O)C=C(C1F)F | C11H8F3NO3
reactant | sodium hydroxide | 5 N, 2.85 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 968 μL | OO | H2O2
reactant | Sodium bisulfite | 888 mg | S([O-])(O)=O.[Na+]
solvent | THF | 31.4 mL | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-hydroxy-4-(3,4,5-trifluorobenzyl)morpholin-3-one | 3.94 g | OC1C(N(CCO1)CC1=CC(=C(C(=C1)F)F)F)=O | C11H10F3NO3
